US09212187B2
Synthesis of N-[3-(1-methyl-2-oxo-1,2-dihydroquinolin-6-yloxy)propyl]-2-nitro-N-{2-[4-(pyridin-3-ylmethoxy)piperidin-1-yl]ethyl}benzenesulfonamide
Sodium iodide (2.93 g) was added to a acetonitrile solution (20 ml) of methanesulfonic acid 2-[[3-(1-methyl-2-oxo-1,2-dihydro-quinolin-6-yloxy)propyl]-(2-nitro-benzenesulfonyl)amino]-ethyl ester (4.37 g), and stirred at 60° C. for 1 hours. The reaction mixture was cooled to room temperature. 4-(pyridin-3-ylmethoxy)piperidine (1.87 g) and N-ethyl diisopropylamine (4.23 ml) were then added to the reaction mixture and stirred at 60° C. for 5 hours. The reaction mixture was cooled to room temperature, and concentrated under reduced pressure. Water was added to the residue, and extraction with dichloromethane was performed. The organic layer was washed with water, and a saturated sodium chloride aqueous solution, in this order. The organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:methanol=1:0→10:1). The purified product was concentrated under reduced pressure to give the title compound (3.48 g) as a yellow solid.

reactant | Sodium iodide | 2.93 g | [I-].[Na+]
reactant | methanesulfonic acid 2-[[3-(1-methyl-2-oxo-1,2-dihydro-quinolin-6-yloxy)propyl]-(2-nitro-benzenesulfonyl)amino]-ethyl ester | 4.37 g | CN1C(C=CC2=CC(=CC=C12)OCCCN(CCOS(=O)(=O)C)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])=O | C22H25N3O9S2
reactant | 4-(pyridin-3-ylmethoxy)piperidine | 1.87 g | N1=CC(=CC=C1)COC1CCNCC1 | C11H16N2O
reactant | N-ethyl diisopropylamine | 4.23 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | N-[3-(1-methyl-2-oxo-1,2-dihydroquinolin-6-yloxy)propyl]-2-nitro-N-{2-[4-(pyridin-3-ylmethoxy)piperidin-1-yl]ethyl}benzenesulfonamide | 3.48 g | CN1C(C=CC2=CC(=CC=C12)OCCCN(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])CCN1CCC(CC1)OCC=1C=NC=CC1)=O | C32H37N5O7S
